datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[H:18]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[H:18])[H:10],13.2214
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])([C:9]([H:17])([H:18])[H:19])[H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[S:3])[H:13])[H:4].[C:5](=[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[C:9]([H:17])([H:18])[H:19])[H:12])([H:10])[H:11],64.4336
[C:0]1=[C:1]([H:7])[C:2]([H:8])=[C:3]=[C:4]=[C:5]([H:9])[C:6]1([H:10])[H:11]>>[C:0]1([H:10])=[C:1]([H:7])[C:2]([H:8])=[C:3]=[C:4]=[C:5]([H:9])[C:6]1[H:11],169.95408
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([S:7][H:11])([H:8])([H:9])[H:10]>>[C:0](=[C:1]([S:2][H:5])[H:11])([H:3])[H:4].[C:6]([S:7])([H:8])([H:9])[H:10],-12.1336
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[H:10]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])[H:4].[H:5][H:10],0.0
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:13]([C:12](=[C:11]([H:17])[H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[C:4]([H:8])([H:9])[H:10])[H:5],54.141
[C:0]([H:1])([H:2])([H:3])[H:4].[O:5][N:6]=[O:7]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:5][N:6]=[O:7],191.6272
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([C:21]([O:22][O:23])([H:33])[H:34])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:23][O:22][C:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])([H:33])[H:34],74.0568
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13][C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13](=[C:12]([H:16])[H:17])[C:14](=[C:15]([H:19])[H:20])[H:18],15.8992
[C:0]([C:1]([O:2][C:3]([C:4]([O:5][C:6]([C:7]([H:18])([H:19])[H:20])=[O:8])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2][C:3](=[C:4]([H:16])[H:17])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:5]=[C:6]([C:7]([H:18])([H:19])[H:20])[O:8][H:14],202.0872
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[S:8])[H:9]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:7](=[S:8])[H:9],0.4184
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11][C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11](=[C:10]([H:13])[H:14])[C:12]([H:15])([H:16])[H:17],-5.4392
[C:0]([C:1](=[C:2]([H:10])[H:11])[C:3](=[C:4]([H:12])[H:13])[O:5][O:6][C:7]([H:14])([H:15])[H:16])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1](=[C:2]([H:10])[H:11])[C:3](=[C:4]([H:12])[H:13])[O:5]1.[O:6][C:7]([H:14])([H:15])[H:16],63.806
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]([C:10]([H:13])([H:14])[H:15])[H:12])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8]#[C:7][H:11])([C:10]([H:13])([H:14])[H:15])[H:12],51.0448
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28])[H:8],-5.98312
[C:0]([C:1](=[O:2])[O:3][O:4][H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1](=[O:2])[O:3])([H:5])([H:6])[H:7].[O:4][H:8],167.9876
[C:0](=[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:11]([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3]=[O:4])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][C:11]([H:12])([H:13])[H:14],36.4008
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[c:17]1[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]1[H:27])[H:10])[H:9])([H:7])[H:8],-4.97896
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][O:27],23.028736
